US04340535
(a) 3-(Pyrid-2-Yldisulphanyl)-Propionic Acid
2.4 g of 2-pyridine sulfenyl chloride are dissolved in 40 ml of methylene chloride, and a solution of 1.75 g of 3-mercaptopropionic acid in 10 ml of methylene chloride is added slowly, whilst stirring and cooling with an ice bath. When the addition is complete, the mixture is stirred at ambient temperature for 15 hours. 50 ml of water are added and the pH is brought to 4.5 by adding 1 N sodium hydroxide solution. The organic phase is separated off and dried over sodium sulphate and the solvent is evaporated off to dryness. An oily product remains and this crystallises (1.8 g). It is purified by dissolution in 16.8 ml of a 0.5 M aqueous solution of sodium bicarbonate. Activated charcoal is added, the solution is filtered and the expected product is then precipitated by adding concentrated acetic acid (0.5 ml) so as to bring the pH to between 3 and 3.5. The precipitate is filtered off and dried under high vacuum and a solid (1.3 g), melting point (capillary method): 62°-64° C., is obtained.

reactant | 2-pyridine sulfenyl chloride | 2.4 g | N1=C(C=CC=C1)SCl | C5H4ClNS
reactant | 3-mercaptopropionic acid | 1.75 g | SCCC(=O)O | C3H6O2S
reactant | water | 50 ml | O | H2O
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-(Pyrid-2-Yldisulphanyl)-Propionic Acid | N1=C(C=CC=C1)SSCCC(=O)O | C8H9NO2S2
